US08466282B2
N-[(3S,5R)-5-(1-hydroxy-1-methylethyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3R,5S)-3-(1-hydroxy-1-methylethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (180 mg) was dissolved in ethyl acetate (2 ml), 4N hydrogen chloride-ethyl acetate (4 ml) was added, and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure to give the object product (130 mg).

reactant | tert-Butyl (3R,5S)-3-(1-hydroxy-1-methylethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 180 mg | OC(C)(C)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C30H48N4O5
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | N-[(3S,5R)-5-(1-hydroxy-1-methylethyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride | 130 mg | Cl.Cl.OC(C)(C)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)CC(C)C | InChI=1S/C25H40N4O3.2ClH/c1-18(2)17-29(20-14-19(15-26-16-20)25(3,4)31)24(30)23-27-21-10-6-7-11-22(21)28(23)12-8-9-13-32-5;;/h6-7,10-11,18-20,26,31H,8-9,12-17H2,1-5H3;2*1H/t19-,20+;;/m1../s1
